US06303816B1
N-2-(4-bromophenyl)ethyl 2-propanesulfonamide
To a solution of 10.0 g (50 mmol) of 4-bromophenethylamine and 7.6 mL (55 mmol) of triethylamine in 150 mL of dichloromethane was added a solution of 6.2 mL (55 mmol) of isopropylsulfonyl chloride in 40 mL of dichloromethane dropwise. The mixture was stirred at room temperature for 18 hr. The mixture was washed with 100 mL of 1N aqueous hydrochloric acid, the organic layer was separated and the aqueous layer extracted one time with 100 mL each of dichloromethane. The combined organics were dried (Na2SO4), filtered and concentrated in vacuo to afford 6.7 g (44%) of the title compound.

reactant | 4-bromophenethylamine | 50 mmol, 10.0 g | BrC1=CC=C(CCN)C=C1 | C8H10BrN
reactant | triethylamine | 55 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 55 mmol, 6.2 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-2-(4-bromophenyl)ethyl 2-propanesulfonamide | 6.7 g, 44% | BrC1=CC=C(C=C1)CCNS(=O)(=O)C(C)C | C11H16BrNO2S
